US06191124B1
A solution of 7-methoxy-imidazo[2,1-b]benzothiazole-3-carboxylic acid ethyl ester (5.5 g) in THF (150 mL) at 0° was treated with LiAlH4 (1.03 g) and reacted for 1 hour. The reaction was quenched by serial addition of water and 15% sodium hydroxide. The suspension was filtered, the combined filtrate and THF washes were evaporated to yield 7-Methoxy-imidazo [2,1-b]benzothiazole-3-methanol (Formula M-2) (3.9 g). Crystallization from acetonitrile solution gave 7-Methoxy-imidazo[2,1-b]benzothiazole-3-methanol (Formula M-2), m.p. 202-204°.

reactant | 7-methoxy-imidazo[2,1-b]benzothiazole-3-carboxylic acid ethyl ester | 5.5 g | C(C)OC(=O)C1=CN=C2SC3=C(N21)C=CC(=C3)OC | C13H12N2O3S
reactant | LiAlH4 | 1.03 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 7-Methoxy-imidazo [2,1-b]benzothiazole-3-methanol | 3.9 g | COC1=CC2=C(N3C(S2)=NC=C3CO)C=C1 | C11H10N2O2S
